US07592456B2
A solution of bromine (0.9 mL, 17.6 mmol) in nitrobenzene (2.5 mL) was added dropwise over 15 minutes to a thick slurry of 7-(4-fluorophenyl)quinoline hydrochloride (3.80 g, 14.6 mmol) in nitrobenzene (7.5 mL) at 140° C. (oil bath temperature). The resulting mixture was stirred at 140° C. for 6 hours, allowed to cool to ca. 80° C., diluted with toluene (30 mL) and then cooled to room temperature. The orange solid was collected under suction and washed with toluene followed by diethyl ether. The solid was suspended in water (100 mL), the mixture basified with aqueous sodium carbonate and extracted with dichloromethane (2×50 mL). The combined extracts were dried (MgSO4) and evaporated to give a yellow solid. This was purified by flash chromatography, eluting with 2:1 dichloromethane/isohexane, dichloromethane then 5% ethyl acetate/dichloromethane, to afford 3-bromo-7-(4-fluorophenyl)quinoline as an off-white solid (2.55 g, 58%). 1H NMR (500 MHz, CDCl3) δ 8.93 (1H, d, J 2.2 Hz), 8.33 (1H, d, J 2.1 Hz), 8.24 (1H, s), 7.82-7.78 (2H, m), 7.71-7.69 (2H, m), 7.20 (2H, t, J 8.6 Hz).

reactant | bromine | 17.6 mmol, 0.9 mL | BrBr | Br2
reactant | 7-(4-fluorophenyl)quinoline hydrochloride | 14.6 mmol, 3.80 g | Cl.FC1=CC=C(C=C1)C1=CC=C2C=CC=NC2=C1
solvent | nitrobenzene | 2.5 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 7.5 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3-bromo-7-(4-fluorophenyl)quinoline | 2.55 g, 58% | BrC=1C=NC2=CC(=CC=C2C1)C1=CC=C(C=C1)F | C15H9BrFN
